US07262185B2
2-methoxyethylamine hydrochloride (10 g) was dissolved in tert-butanol (80 ml)/acetic acid (10 ml), potassium thiocyanate (9.1 g) and dihydroxyacetone dimer (5.7 g) were added to the mixture, and the mixture was stirred for 48 hours at room temperature. To the reaction mixture, water (20 ml) was added to the mixture, and the mixture was concentrated to half under reduced pressure, and collected by filtration. The mixture was washed with water, added to 5.6N nitric acid to which sodium nitrite was added (0.20 g) under ice-cooling, and the mixture was stirred for 2 hours at room temperature. The reaction solution was neutralized with potassium carbonate, and the solvent was removed under reduced pressure. The residue was washed with ethanol, the solvent of the obtained solution was removed under reduced pressure and the residue was purified by silica gel column chromatography, to give 5-hydroxymethyl-1-(2-methoxyethyl)imidazole (2.9 g).

reactant | 2-methoxyethylamine hydrochloride | 10 g | Cl.COCCN
reactant | potassium thiocyanate | 9.1 g | [S-]C#N.[K+]
reactant | dihydroxyacetone dimer | 5.7 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | water | 20 ml | O | H2O
solvent | tert-butanol | 80 ml | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-hydroxymethyl-1-(2-methoxyethyl)imidazole | 2.9 g | OCC1=CN=CN1CCOC | C7H12N2O2
